US07612114B2
(R)-6-{2-{{4-[2-(tert-Butylmethylamino)ethoxy]benzyl}ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (16 mg) and N-tert-butyl-2-chloro-N-methylacetamide (8.9 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (8.6 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 16 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C32H37NO6
reactant | N-tert-butyl-2-chloro-N-methylacetamide | 8.9 mg | C(C)(C)(C)N(C(CCl)=O)C | C7H14ClNO
product | (R)-6-{2-{{4-[2-(tert-Butylmethylamino)ethoxy]benzyl}ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 8.6 mg | C(C)(C)(C)N(CCOC1=CC=C(CCCNC2=C(C=C(C(=C2)OC)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1)C | C34H46N2O4
